US04880808
A mixture of 12 parts of ethyl 4-[5-(4-fluorophenyl)-5-(3-pyridinyl)pentyl]2-methyl-1-piperazinecarboxylate, 16 parts of potassium hydroxide and 128 parts of 2-propanol was stirred for 4 days at reflux temperature. After cooling, the reaction mixture was evaporated. Water was added to the residue and the mixture was evaporated till all traces of 2-propanol were removed (this was repeated twice). The residue was taken up in water and the product was extracted with dichloromethane. The extract was washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated, yielding 6.7 parts (67.6%) of 1-[5-(4-fluorophenyl)-5-(3-pyridinyl)pentyl]-3-methylpiperazine as a residue (int. 39).

reactant | ethyl 4-[5-(4-fluorophenyl)-5-(3-pyridinyl)pentyl]2-methyl-1-piperazinecarboxylate | FC1=CC=C(C=C1)C(CCCCN1CC(N(CC1)C(=O)OCC)C)C=1C=NC=CC1 | C24H32FN3O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | 2-propanol | CC(C)O | C3H8O
product | 1-[5-(4-fluorophenyl)-5-(3-pyridinyl)pentyl]-3-methylpiperazine | 67.6% | FC1=CC=C(C=C1)C(CCCCN1CC(NCC1)C)C=1C=NC=CC1 | C21H28FN3
